US06777412B2
Sodium azide (0.25 g) was added to a solution of (E)-methyl 2-[2-(6-chloropyrimidin-4-yloxy)phenyl]-3-methoxypropenoate (1.0 g) in DMF (30 ml). The reaction mixture was stirred for 2 hours at room temperature, then for 6 hours at 50° C. After cooling, the reaction mixture was poured into water and extracted with ether (3×100 ml). The combined extracts were washed with brine, dried and concentrated to give (E)-methyl 2-[2-(6-azidopyrimidin-4-yloxy)phenyl]-3-methoxypropenoate (1.02 g, 99%) as an oil; 1H NHR: δ 3.51 (3H, s), 3.65 (3H, s), 6.12 (1H, s), 7.0-7.35 (4H, m), 7.37 (1H, s), mass 8.47 (1H, s) ppm; IR maxima (film): 2135, 1711, 1635 cm−1.

reactant | Sodium azide | 0.25 g | [N-]=[N+]=[N-].[Na+]
reactant | (E)-methyl 2-[2-(6-chloropyrimidin-4-yloxy)phenyl]-3-methoxypropenoate | 1.0 g | ClC1=CC(=NC=N1)OC1=C(C=CC=C1)/C(/C(=O)OC)=C\OC | C15H13ClN2O4
reactant | water | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | (E)-methyl 2-[2-(6-azidopyrimidin-4-yloxy)phenyl]-3-methoxypropenoate | 1.02 g, 99% | N(=[N+]=[N-])C1=CC(=NC=N1)OC1=C(C=CC=C1)/C(/C(=O)OC)=C\OC | C15H13N5O4
